US06103708
2-Acetoxy-4-{4-[2-(2-Bromo-benzyl)-4,5-dimethyl-furan-3-carbonyl]-2-cyclopentyl-phenoxysulfonyl}-benzoic Acid
The title compound was prepared according to the procedure in Example 22 using 4-{4-[2-(2-bromo-benzyl)-4,5-dimethyl-furan-3-carbonyl]-2-cyclopentyl-phenoxysulfonyl}-2-hydroxy-benzoic acid (0.318 g, 0.487 mmol), magnesium iodide (0.132 g, 0.475 mmol) and acetic anhydride (3.8 mL) in ether. Purification on 2% H3PO4 /MeOH treated silica gel, eluting with a 30% EtOAc/pet ether gave 0.083 g (25%) of the title compound as a solid, mp 79° C. 1H NMR (DMSO-d6) δ 1.27-1.33 (m, 2 H), 1.51-1.54 (m, 2 H), 1.63-1.73 (m, 4 H), 1.79 (s, 3 H), 2.17 (s, 3 H), 2.24 (s, 3 H), 2.93 (quintet, 1 H), 3.91 (s, 2 H), 7.13-7.17 (m, 2 H), 7.21 (d, 1 H), 7.30 (dt, 1 H), 7.51 (dd, 1 H), 7.55 (dd, 1 H), 7.60 (d, 1 H), 7.85 (d, 1 H), 7.90 (dd, 1 H), 8.14 (d, 1 H)13.8 (br s, 1 H). mass spectrum (-ESI) m/z 693/695 (M-H). Anal. Calcd. for C34H31BrO9S: C, 58.71; H, 4.49; N, 0.00. Found: C, 58.04; H, 4.52; N, 0.04.

reactant | 4-{4-[2-(2-bromo-benzyl)-4,5-dimethyl-furan-3-carbonyl]-2-cyclopentyl-phenoxysulfonyl}-2-hydroxy-benzoic acid | 0.487 mmol, 0.318 g | BrC1=C(CC=2OC(=C(C2C(=O)C2=CC(=C(OS(=O)(=O)C3=CC(=C(C(=O)O)C=C3)O)C=C2)C2CCCC2)C)C)C=CC=C1 | C32H29BrO8S
reactant | magnesium iodide | 0.475 mmol, 0.132 g | [I-].[Mg+2].[I-]
reactant | acetic anhydride | 3.8 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | CCOCC | C4H10O
product | 2-Acetoxy-4-{4-[2-(2-Bromo-benzyl)-4,5-dimethyl-furan-3-carbonyl]-2-cyclopentyl-phenoxysulfonyl}-benzoic Acid | 0.083 g, 25% | C(C)(=O)OC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)OC1=C(C=C(C=C1)C(=O)C1=C(OC(=C1C)C)CC1=C(C=CC=C1)Br)C1CCCC1 | C34H31BrO9S
